US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 2-imidazolethiol to give a precipitated solid which was partitioned between methylene chloride and 2 h aqueous sodium hydroxide solution. The aqueous phase was acidified by the addition of a concentrated (20%) aqueous citric acid solution and the precipitate was isolated and dried. The material was recrystallised from a mixture of hexane and ethyl acetate to give 2-chloro-4-nitrophenyl 2-imidazolyl sulphide in 13% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-imidazolethiol | N1C(=NC=C1)S | C3H4N2S
product | 2-chloro-4-nitrophenyl 2-imidazolyl sulphide | 13% yield | N1C(=NC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C9H6ClN3O2S
